US05245035
Sodium hydride (50% dispersion in mineral oil; 0.091 g; 1.9 mmol) was washed with hexane, dried with a stream of nitrogen and covered with N-methylpyrrolidone (NMP) (5 ml). The mixture was cooled to below 10° C. and propanethiol (0.145 g; 1.9 mmol) was added slowly with stirring. After 15 minutes, a solution of 2-ethyl-4-[(2'-(1-(4-nitrophenyl)-1H-tetrazol-5-yl)biphenyl-4-yl)methoxy]quinoline (0.5 g; 0.95 mmol) in NMP (10 ml) was added slowly maintaining the temperature of the reaction mixture below 10° C. The mixture was then stirred for 2 hours. Concentrated hydrochloric acid was added until the reaction mixture was pH2. Water (25 ml) was then added and the suspended white solid collected by filtration. The crude product was recrystallised from ethanol to give 2-ethyl-4-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methoxy]quinoline hydrochloride as a solid, in 64% yield; m.p. 178°-181° C.; NMR (d6 -DMSO): 1.53(3H, t), 3.30(2H, q), 5.65(2H, s), 7.25(2H, d), 7.50-7.75(6H, m), 7.80(1H, t), 7.90(1H, s), 8.00(1H, t), 8.35(1H, d), 8.50(1H, d).

reactant | Sodium hydride | 1.9 mmol, 0.091 g | [H-].[Na+]
reactant | propanethiol | 1.9 mmol, 0.145 g | C(CC)S | C3H8S
reactant | 2-ethyl-4-[(2'-(1-(4-nitrophenyl)-1H-tetrazol-5-yl)biphenyl-4-yl)methoxy]quinoline | 0.95 mmol, 0.5 g | C(C)C1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C1=CC=C(C=C1)[N+](=O)[O-] | C31H24N6O3
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | NMP | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | Water | 25 ml | O | H2O
product | 2-ethyl-4-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methoxy]quinoline hydrochloride | 64% yield | Cl.C(C)C1=NC2=CC=CC=C2C(=C1)OCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | InChI=1S/C25H21N5O.ClH/c1-2-19-15-24(22-9-5-6-10-23(22)26-19)31-16-17-11-13-18(14-12-17)20-7-3-4-8-21(20)25-27-29-30-28-25;/h3-15H,2,16H2,1H3,(H,27,28,29,30);1H
